US07608639B2
3-{2-Ethyl-4-[3-methyl-5-(2-o-tolyloxy-4-trifluoromethyl-phenoxy)-phenoxy]-phenyl}-propionic acid ethyl ester
A mixture of 3-{2-ethyl-4-[3-methyl-5-(2-o-tolyloxy-4-trifluoromethyl-phenoxy)phenoxy]-phenyl}-acrylic acid ethyl ester (1.83 g, 3.17 mmol) and 10% Pd/C (1.80 g) in ethyl acetate (100 mL) is purged with N2 then H2 and then stirred under a H2 balloon at rt for 5 hours. The mixture is filtered through hyflo, and the solvent is removed in vacuo to afford 1.77 g (97%) of the title compound. Rf=0.22 (9/1 hexanes/EtOAc). 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calculated for C34H33F3O5 578, found 579 (M+1, 100%).

reactant | 3-{2-ethyl-4-[3-methyl-5-(2-o-tolyloxy-4-trifluoromethyl-phenoxy)phenoxy]-phenyl}-acrylic acid ethyl ester | 3.17 mmol, 1.83 g | C(C)OC(C=CC1=C(C=C(C=C1)OC1=CC(=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)OC1=C(C=CC=C1)C)C)CC)=O | C34H31F3O5
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 1.80 g | [Pd] | Pd
product | 3-{2-Ethyl-4-[3-methyl-5-(2-o-tolyloxy-4-trifluoromethyl-phenoxy)-phenoxy]-phenyl}-propionic acid ethyl ester | 1.77 g, 97% | C(C)OC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)OC1=C(C=CC=C1)C)C)CC)=O | C34H33F3O5
